* C:\Users\Afonso Muralha\Documents\GitHub\0603-Led-Matrix\PCB ESP32\Simulations\PowerSupplySwitching.asc
M1 N001 N002 N003 N003 Si9433DY
V1 N002 0 0
V2 N001 0 4
R2 N002 0 10k
D1 N002 N003 D
XU1 0 N004 N003 LT1086-3.3
R1 N004 0 1k
.model D D
.lib C:\Users\Afonso Muralha\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Afonso Muralha\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
.lib LT1083.lib
.backanno
.end
